US04746656
7-(2,3-Dichlorophenyl)-1,2,4,7-tetrahydro-5-methyl-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, ethyl ester
A solution of 2-[(2,3-dichlorophenyl)methylene]-3-oxobutanoic acid, ethyl ester (2.8 g; 10.0 mmole) in dimethylformamide (7 ml) was treated with 3-amino-5-pyrazolone (990 mg) and the resulting mixture was heated at 65° C.±5° for 15 hours. The reaction mixture was allowed to cool to room temperature and then diluted with ethyl acetate. The solution was washed with water, brine, and dried over anhydrous magnesium sulfate. Evaporation of the solvent provided a foam which was purified by flash chromatography (7% methanol in dichloromethane). The product was crystallized from acetonitrile-isopropyl ether to provide the title compound as a solid (1.42 g; melting point 213°-218° C.; sinters above 155° C.).

reactant | 2-[(2,3-dichlorophenyl)methylene]-3-oxobutanoic acid, ethyl ester | 10.0 mmole, 2.8 g | ClC1=C(C=CC=C1Cl)C=C(C(=O)OCC)C(C)=O | C13H12Cl2O3
reactant | 3-amino-5-pyrazolone | 990 mg | NC=1N=NC(C1)=O | C3H3N3O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(2,3-Dichlorophenyl)-1,2,4,7-tetrahydro-5-methyl-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, ethyl ester | 1.42 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC=2N1NC(C2)=O)C)C(=O)OCC | C16H15Cl2N3O3
